US04657893
Methyl 2-(3-sec-butyl-ureido)benzoate (90 mg) was dissolved in 2 ml of concentrated sulfuric acid. The solution was stirred for 21/2 hours and poured onto ice. The ice-quenched mixture was rapidly neutralized with saturated sodium bicarbonate solution. The resulting white precipitate was filtered, dried and recrystallized from ether and petroleum ether, to yield 2-sec-butylamino-4H-3,1-benzoxazin-4-one, m.p. 122°-123° C.; 'H NMR (delta CDCl3): 1.0 (t, 3H, CH3CH2); 1.3 (d, 3H, CH3CH); 1.6 (m, 2H, CH2); 4.0 (m, 1H, CH--N); 7.2, 7.6 8.0 (3m, 4H, ArH). The infrared spectrum of this compound showed maxima at 3290, 1740, 1635 and 1600 cm-1.

reactant | Methyl 2-(3-sec-butyl-ureido)benzoate | 90 mg | C(C)(CC)NC(NC1=C(C(=O)OC)C=CC=C1)=O | C13H18N2O3
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 2-sec-butylamino-4H-3,1-benzoxazin-4-one | C(C)(CC)NC1=NC2=C(C(O1)=O)C=CC=C2 | C12H14N2O2
